US06583156B1
1-(2,8-Bis(trifluoromethyl)-4-quinolinyl)-4-hydroxybutanol
A solution of 1-(2,8-bis(trifluoromethyl)-4-quinolinyl)-4-hydroxybutanone (748 mg, 2.13 mmol) in EtOH (4 mL) at 0° C. was treated with a solution of NaBH4 (81 mg, 2.13 mmol) in water (0.2 mL), stirred at 0° C. for 30 min, poured into water (15 mL), extracted with EtOAc (2×10 mL),dried (MgSO4), concentrated in vacuo and purified by chromatography [SiO2; EtOAc-heptane (2:1)] to give the title compound (618 mg, 82%) as a colourless oil; IR νmax (Nujol)/cm−1 3600-3200, 2938, 2885, 1604,1588, 1430, 1310, 1189, 1144 and 1110; NMR δH (400 MHz, CDCl3) 1.81-1.91 (3H, m), 2.08-2.17 (1H, m), 2.45-2.70 (2H, br s),3.75-3.78 (1H, m), 3.80-3.88 (1H, m), 5.52 (1H, d, J 8.0 Hz), 7.71 (1H, t, J 7.9 Hz), 8.08 (1H, s), 8.15 (1H, d, J 7.2 Hz) and 8.23 (1H, d, J 8.7 Hz).

reactant | 1-(2,8-bis(trifluoromethyl)-4-quinolinyl)-4-hydroxybutanone | 2.13 mmol, 748 mg | FC(C1=NC2=C(C=CC=C2C(=C1)CC(CCO)=O)C(F)(F)F)(F)F | C15H11F6NO2
reactant | NaBH4 | 2.13 mmol, 81 mg | [BH4-].[Na+]
reactant | EtOH | 4 mL | CCO | C2H6O
solvent | water | 0.2 mL | O | H2O
solvent | water | 15 mL | O | H2O
product | 1-(2,8-Bis(trifluoromethyl)-4-quinolinyl)-4-hydroxybutanol | 618 mg, 82% | FC(C1=NC2=C(C=CC=C2C(=C1)C(CCCO)O)C(F)(F)F)(F)F | C15H13F6NO2
